US05534644
A suspension of 7.8 g (0.05 moles) of 3,5-dichloro-2-pentanone with 3.9 g (0.051 moles) of ammonium rhodanide in 50 cm3 of methyl-ethyl-ketone is boiled for 1 hour under stirring. Then the procedure described in Example 1 is followed. 8.5 g (95.5%) of 3-thiocyanato-5-chloro-2-pentanone are obtained, which after distillation is identical in all respect with the product of Example 1.

reactant | 3,5-dichloro-2-pentanone | 0.05 moles, 7.8 g | ClC(C(C)=O)CCCl | C5H8Cl2O
reactant | ammonium rhodanide | 0.051 moles, 3.9 g | C(#N)S.N
solvent | methyl-ethyl-ketone | 50 cm3 | CC(=O)CC | C4H8O
product | 3-thiocyanato-5-chloro-2-pentanone | 8.5 g, 95.5% | S(C#N)C(C(C)=O)CCCl | C6H8ClNOS
